US08735424B2
A solution of (S)-tert-butyl 1-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,7-naphthyridin-4-yl)piperidin-3-ylcarbamate (1.0 equiv.), 3-(5-amino-6-chloropyridin-2-yl)-4-fluoro-N-isopropylbenzamide ((1.0 equiv.) and Pd(dppf)Cl2—CH2Cl2 (0.2 equiv.) in 3:1 DME/2M Na2CO3 was heated at 120° C. for 20 hours. Upon cooling, the solution was partitioned between EtOAc and Na2CO3(sat.) washed further with NaCl(sat.), dried over MgSO4, concentrated and purified by RP HPLC. Upon lyophilization, the Boc group was deprotected by treatment with 25% TFA/CH2Cl2, concentrated, purified by RP-HPLC and lyophilized to yield (S)-3-(5-amino-6-(4-(3-aminopiperidin-1-yl)-1,7-naphthyridin-6-yl)pyridin-2-yl)-4-fluoro-N-isopropylbenzamide (21%). LC/MS=500.3 (M+H), LC=2.36 min.

reactant | (S)-tert-butyl 1-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,7-naphthyridin-4-yl)piperidin-3-ylcarbamate | 1.0 equiv. | CC1(OB(OC1(C)C)C=1C=C2C(=CC=NC2=CN1)N1C[C@H](CCC1)NC(OC(C)(C)C)=O)C | C24H35BN4O4
reactant | 3-(5-amino-6-chloropyridin-2-yl)-4-fluoro-N-isopropylbenzamide | NC=1C=CC(=NC1Cl)C=1C=C(C(=O)NC(C)C)C=CC1F | C15H15ClFN3O
catalyst | Pd(dppf)Cl2 CH2Cl2 | 0.2 equiv. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | DME | 2M | COCCOC | C4H10O2
product | (S)-3-(5-amino-6-(4-(3-aminopiperidin-1-yl)-1,7-naphthyridin-6-yl)pyridin-2-yl)-4-fluoro-N-isopropylbenzamide | 21% | NC=1C=CC(=NC1C=1C=C2C(=CC=NC2=CN1)N1C[C@H](CCC1)N)C=1C=C(C(=O)NC(C)C)C=CC1F | C28H30FN7O
